US07517873B2
A mixture of 0.11 g (0.00027 mole) of 3-methoxy-4-[9-(2-methoxy-ethyl)-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-benzoic acid (I-40a), 0.115 g (0.0003 mole) of 1-[bis(dimethylamino)-methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.166 mL (0.00096 mole) of ethyldiisopropyl amine and 2.0 mL of dimethylformamide was stirred for 5 minutes and then 0.047 g (0.00041 mole) of 4-amino-1-methyl-piperidine was added. The mixture was stirred for 3 hours, then diluted with 10 mL of water plus 2 mL of saturated sodium bicarbonate and then extracted 3 times with 10 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by C18 reverse phase silica gel chromatography, eluting with an acetonitrile-water gradient (20:80-100:0) to give 0.098 g of 3-methoxy-4-[9-(2-methoxy-ethyl)-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-N-(1-methyl-piperidin-4-yl)-benzamide (I-40) as a white solid.

reactant | 3-methoxy-4-[9-(2-methoxy-ethyl)-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-benzoic acid | 0.00027 mole, 0.11 g | COC=1C=C(C(=O)O)C=CC1NC=1N=CC2=C(N(CCC(N2C)=O)CCOC)N1 | C19H23N5O5
reactant | 1-[bis(dimethylamino)-methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.0003 mole, 0.115 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | ethyldiisopropyl amine | 0.00096 mole, 0.166 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl-piperidine | 0.00041 mole, 0.047 g | NC1CCN(CC1)C | C6H14N2
solvent | water | 10 mL | O | H2O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-methoxy-4-[9-(2-methoxy-ethyl)-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-N-(1-methyl-piperidin-4-yl)-benzamide | 0.098 g | COC=1C=C(C(=O)NC2CCN(CC2)C)C=CC1NC=1N=CC2=C(N(CCC(N2C)=O)CCOC)N1 | C25H35N7O4
